US04889869
(n) 2-benzyl-3-tert.-butylsulphonyl-propionic acid ethyl ester
0.5 g of 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester is dissolved in 8 ml of methanol and, while cooling with ice, 1.63 g of oxone® (potassium peroxomonosulphate, 50% KHSO5, Ventron GmbH, Karlsruhe) in 7 ml of water are added and the whole is stirred overnight at room temperature. The solution is diluted with water and extracted with methylene chloride, and the extracts are dried and concentrated by evaporation. 1H-NMR (DMSO-d6): 1.0 ppm (t, 3H), 1.3 (s, 9H); 2.8-3.5 (m, 5H), 3.95 (q, 2H); 7.15-7.3 (m, 5H).

reactant | 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester | 0.5 g | C(C)OC(C(CC(C)(C)C)CC1=CC=CC=C1)=S | C16H24OS
reactant | oxone | 1.63 g | OOS(=O)[O-].[K+]
reactant | potassium | [K] | K
reactant | water | 7 ml | O | H2O
solvent | methanol | 8 ml | CO | CH4O
product | 2-benzyl-3-tert.-butylsulphonyl-propionic acid ethyl ester | C(C)OC(C(CS(=O)(=O)C(C)(C)C)CC1=CC=CC=C1)=O | C16H24O4S
